* Z:\mnt\design.r\spice\examples\ADP2138-2.5.asc
V1 IN 0 5
L1 N001 OUT 1µ
Rload OUT 0 5
C1 OUT 0 10µ
XU1 IN IN N001 OUT 0 IN ADP2138-x.x Rtop=320K
.tran .5m startup
.lib ADP2138-x.x.sub
.backanno
.end
